US07910613B2
5-[1,2,4]Oxadiazol-3-yl-4-phenyl-thiazol-2-ylamine
2-Amino-N-hydroxy-4-phenyl-thiazole-5-carboxamidine (1.0 g, 4.3 mmol) was dissolved in methanol (20 mL), and trimethyl orthoformate (1.2 mL, 11 mmol) containing boron trifluoride etherate (0.2 mL, 1.6 mmol) was added End the mixture was heated at reflux for 3 h. The reaction mixture was cooled, and the solvent was removed under reduced pressure at 20° C. The residue was extracted with ethyl acetate, and the solution was washed with saturated aqueous NaHCO3 dried over sodium sulfate and evaporated. The crude product was purified by flash column chromatography, eluted with the gradient of 10-18% ethyl acetate in hexanes to get the product (the product was eluted by 18% ethyl acetate in hexanes). Yield: 0.1 g, 10%

reactant | 2-Amino-N-hydroxy-4-phenyl-thiazole-5-carboxamidine | 4.3 mmol, 1.0 g | NC=1SC(=C(N1)C1=CC=CC=C1)C(=N)NO | C10H10N4OS
reactant | trimethyl orthoformate | 11 mmol, 1.2 mL | C(OC)(OC)OC | C4H10O3
reactant | boron trifluoride etherate | 1.6 mmol, 0.2 mL | B(F)(F)F.CCOCC
solvent | methanol | 20 mL | CO | CH4O
product | 5-[1,2,4]Oxadiazol-3-yl-4-phenyl-thiazol-2-ylamine | O1N=C(N=C1)C1=C(N=C(S1)N)C1=CC=CC=C1 | C11H8N4OS
